US04833155
Synthesis of N-methyl-2-methylthio-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole
2-Methylthio-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole (1 g) was added to a cooled, stirred suspension of 0.28 g of sodium hydride (50% in mineral oil) in 20 ml of anhydrous dimethylformamide under nitrogen. After 45 minutes at room temperature, the mixture was cooled to 0° C. and 0.25 ml of methyl iodide was added. After 30 minutes, the reaction mixture was poured into a 10% HCl-ice-water mixture, then extracted three times with 100 ml ethyl acetate. The organic layer was washed five times with 100 ml water, dried and evaporated to dryness. Crystallization of the residue from ethyl acetate-hexane gave 0.93 g of the title compound (mp 173°-175° C.).

reactant | 2-Methylthio-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 1 g | CSC=1NC=C(C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H27NO2S
reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | methyl iodide | 0.25 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-methyl-2-methylthio-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 0.93 g | CN1C(=CC(=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)SC | C21H29NO2S
